US05508408
Example 33: 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-dibutyl-4-oxobutanoic acid
The title compound is prepared analogously to the compound described in Example 20 from 2,2-dibutylsuccinic acid anhydride (prepared analogously to the instructions of H. Le Moal et al. Bull. Soc. Chim. 1964, 579 and 828) and 3-(7-fluoro-2-quinolinylmethoxy)aniline; beige crystals of m.p. 156°-157°.

reactant | 2,2-dibutylsuccinic acid anhydride | C(CCC)C1(C(=O)OC(C1)=O)CCCC | C12H20O3
reactant | 3-(7-fluoro-2-quinolinylmethoxy)aniline | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1 | C16H13FN2O
product | 4-[3-(7-fluoro-2-quinolinylmethoxy)phenylamino]-2,2-dibutyl-4-oxobutanoic acid | FC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CCCC)CCCC)=O | C28H33FN2O4
